US04065573
Following the procedure of Example 1, Part G, but substituting an appropriate quantity of 4-(p-t-butylphenyl)-4-isocyanatocyclohexanone ethylene ketal for 4-p-chlorophenyl-4-isocyanatocyclohexanone there is obtained 4-(p-t-butylphenyl)-4-methylaminocyclohexanone ethylene ketal which as a m.p. 118.5°-121° C. (94% yield).

reactant | 4-(p-t-butylphenyl)-4-isocyanatocyclohexanone ethylene ketal | C1COC2(CCC(CC2)(N=C=O)C2=CC=C(C=C2)C(C)(C)C)O1 | C19H25NO3
reactant | 4-p-chlorophenyl-4-isocyanatocyclohexanone | ClC1=CC=C(C=C1)C1(CCC(CC1)=O)N=C=O | C13H12ClNO2
product | 4-(p-t-butylphenyl)-4-methylaminocyclohexanone ethylene ketal | 94% yield | C1COC2(CCC(CC2)(NC)C2=CC=C(C=C2)C(C)(C)C)O1 | C19H29NO2
